US06162819
3-(5-Carboxy-2-furyl)-1-(2-phenylethyl)indazole:
5 g (21 mmol) of 5-(2-fluorobenzoyl)furan-2-carboxylic acid, 12 g (51 mmol) of (2-phenylethyl)hydrazinium sulfate and 8.4 g (102 mmol) of sodium acetate in 50 ml of ethanol were boiled under reflux for 12 h. The mixture was subsequently concentrated and stirred with water/ethyl acetate, and the ethyl acetate phase was separated off, dried and concentrated. For purification, the crude intermediate (hydrazone) was chromatographed over silica gel using dichloromethane/methanol (9:1). 4 g (11.3 mmol) of the hydrazone were dissolved in 20 ml of DMF and, with 2.5 g (23 mmol) of potassium tert-butoxide, heated under reflux for 3 h. The precipitated potassium salt of the title acid was filtered off with suction. The concentrated filtrate was chromatographed over silica gel using dichloromethane/methanol (7:3). This gave a total of 1.9 g (27%, calculated for the acid) of the title compound. 3-(5-carboxy-2-furyl)indazole was formed as a byproduct. m.p.: decomp. >190° C.

reactant | 5-(2-fluorobenzoyl)furan-2-carboxylic acid | 21 mmol, 5 g | FC1=C(C(=O)C2=CC=C(O2)C(=O)O)C=CC=C1 | C12H7FO4
reactant | (2-phenylethyl)hydrazinium sulfate | 51 mmol, 12 g | S(=O)(=O)([O-])[O-].C1(=CC=CC=C1)CC[NH2+]N.C1(=CC=CC=C1)CC[NH2+]N
reactant | sodium acetate | 102 mmol, 8.4 g | C(C)(=O)[O-].[Na+]
reactant | potassium tert-butoxide | 23 mmol, 2.5 g | CC(C)([O-])C.[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-(5-Carboxy-2-furyl)-1-(2-phenylethyl)indazole | C(=O)(O)C1=CC=C(O1)C1=NN(C2=CC=CC=C12)CCC1=CC=CC=C1 | C20H16N2O3
